US05589506
A mixture of 4-ethylbenzyl alcohol (2.72 g, 20 mmol, purchased from Aldrich) and 50 ml of 47% hydrobromic acid (purchased from Wako Junyaku Kogyo) was stirred vigorously for 30 minutes at room temperature. The reaction mixture was extracted with hexane to give 3.98 g of 4-ethylbenzyl bromide as a colorless oil. Then to a hot solution (50° C.) of sodium cyanide (1.96 g, 40 mmol) in 20 ml of dimethyl sulfoxide was added the above 3.98 g of 4-ethylbenzyl bromide and the mixture was stirred for 3 hours at ambient temperature. To the resultant reaction mass was added water and extracted with hexane. The solvent was removed to give 2.70 g (yield: 93.1%) of 4-ethylphenylacetonitrile as a pale yellow oil.

reactant | sodium cyanide | 40 mmol, 1.96 g | [C-]#N.[Na+]
reactant | 4-ethylbenzyl bromide | above 3.98 g | C(C)C1=CC=C(CBr)C=C1 | C9H11Br
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-ethylphenylacetonitrile | 2.70 g, yield: 93.1% | C(C)C1=CC=C(C=C1)CC#N | C10H11N
